US05356863
Synthesis of 3-(4-chloro-2-fluoro-5-(2-thenoylamino)phenyl)-1-methyl-6-trifluoromethyl-2,4(1H,3H)-pyrimidinedione (Compound D-45)
In 5 ml of pyridine was dissolved 0.34 g of 3-(5-amino-4-chloro-2-fluorophenyl)-1-methyl-6-trifluoromethyl-2,4(1H,3H)-pyrimidinedione, and 0.17 g of 2-thiophencarbonyl chloride was added thereto at 5° C. or lower. Thereafter, the temperature was increased to room temperature and the reaction was continued overnight. Then, pyridine was removed by distillation and the residue was dissolved in ethyl acetate. The solution was washed successively with water, diluted hydrochloric acid and a saturated saline solution, and dried over anhydrous sodium sulfate followed by removing ethyl acetate by distillation to obtain a crude product. This was washed with diisopropyl ether to obtain 0.30 g of the desired compound as white crystal.

reactant | 3-(5-amino-4-chloro-2-fluorophenyl)-1-methyl-6-trifluoromethyl-2,4(1H,3H)-pyrimidinedione | 0.34 g | NC=1C(=CC(=C(C1)N1C(N(C(=CC1=O)C(F)(F)F)C)=O)F)Cl | C12H8ClF4N3O2
reactant | 2-thiophencarbonyl chloride | 0.17 g | S1C(=CC=C1)C(=O)Cl | C5H3ClOS
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | 3-(4-chloro-2-fluoro-5-(2-thenoylamino)phenyl)-1-methyl-6-trifluoromethyl-2,4(1H,3H)-pyrimidinedione | 0.30 g | ClC1=CC(=C(C=C1NC(C1=CC=CS1)=O)N1C(N(C(=CC1=O)C(F)(F)F)C)=O)F | C17H10ClF4N3O3S
